US07842688B2
g) Methyl 7-methylbenzofuran-2-carboxylate
A solution of 4.32 g of 7-methylbenzofuran-2-carboxylic acid in 150 ml of methanol and 1 ml of conc. H2SO4 is stirred at reflux over 9 hours. The reaction mixture is cooled and concentrated by evaporation. The residue is dissolved in diethyl ether and washed with water, saturated aqueous sodium hydrogencarbonate solution and brine, dried over sodium sulphate and concentrated by evaporation. The crude title compound is obtained as a red-brown oil from the residue. Rf=0.32 (1:6 EtOAc-heptane); Rt=4.51.

reactant | 7-methylbenzofuran-2-carboxylic acid | 4.32 g | CC1=CC=CC=2C=C(OC21)C(=O)O | C10H8O3
reactant | methanol | 150 ml | CO | CH4O
solvent | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
product | Methyl 7-methylbenzofuran-2-carboxylate | CC1=CC=CC=2C=C(OC21)C(=O)OC | C11H10O3
